US07226569B2
N-Ethyl-2-methyldecahydroquinolinium hydroiodide was prepared according to the method described below. To a solution 100 gm (0.65 mol) of 2-methyldecahydroquinoline (trans and cis) in 350 ml acetonitrile, 111 gm (0.72 mole) of ethyl iodide was added. The mixture was stirred (using an overhead stirrer) at room temperature for 96 hours. Then, an additional ½ mole equivalent of ethyl iodide was added and the mixture was heated at reflux for 6 hours. The reaction mixture was concentrated on a rotary evaporator at reduced pressure and the obtained solids were rinsed with 500 ml ethyl ether to remove any unreactive amines and excess iodide. The reaction afforded a mixture of two N-ethyl-2-methyl-decahydroquinolinium hydroiodide salts (mono-ethyl derivatives) and a small mixture of the quaternized derivatives. The products were isolated by recrystallization from isopropyl alcohol several times to give the pure trans-fused ring N-ethyl-2-methyl-decahydroquinolinium hydroiodide and the pure cis-fused ring N-ethyl-2-methyl-decahydroquinolinium hydroiodide (see the scheme below).

reactant | 2-methyldecahydroquinoline | 0.65 mol, 100 gm | CC1NC2CCCCC2CC1 | C10H19N
reactant | ethyl iodide | 0.72 mole, 111 gm | C(C)I | C2H5I
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | acetonitrile | 350 ml | C(C)#N | C2H3N
product | N-ethyl-2-methyl-decahydroquinolinium hydroiodide | I.C(C)[NH+]1C(CCC2CCCCC12)C | InChI=1S/C12H23N.HI/c1-3-13-10(2)8-9-11-6-4-5-7-12(11)13;/h10-12H,3-9H2,1-2H3;1H/p+1
